US07304037B2
II.2.f Ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-{{3-{[(3-aminophenyl)-sulfonyl]amino}-phenyl}}-propanoate
43.5 g of tin-(II) chloride were added to a solution of 17.8 g of ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-{{3-{[(3-nitrophenyl)-sulfonyl]-amino}-phenyl}}-propanoate from Example II.2.e in 165 ml of ethanol, and the mixture was heated to reflux for a period of time of 2 h. The reaction mixture was hydrolized with 200 ml of aqueous 2N sodium hydroxide solution, then filtered through silica gel and washed with dichloromethane. The organic phase was dried over magnesium sulphate and concentrated to yield 9.2 g of a solid.

reactant | tin-(II) chloride | 43.5 g | [Sn](Cl)Cl
reactant | ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-{{3-{[(3-nitrophenyl)-sulfonyl]-amino}-phenyl}}-propanoate | 17.8 g | C(C=C)OC(=O)NC(CC(=O)OCC)C1=CC(=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C21H23N3O8S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 165 ml | C(C)O | C2H6O
product | Ethyl 3-{[(allyloxy)-carbonyl]-amino}-3-{{3-{[(3-aminophenyl)-sulfonyl]amino}-phenyl}}-propanoate | 9.2 g | C(C=C)OC(=O)NC(CC(=O)OCC)C1=CC(=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)N | C21H25N3O6S
